US05254557
Trans-3,4-Dihydro-2,2-dimethyl-4-(4(1H)-pyrimidinon-1-yl)-2H-pyrano[3,2-c]pyridine-3-ol
This example was also prepared by heating an equimolar mixture of 4(3H)-pyrimidone and 3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-pyrano[3,2-c]pyridine at 60° C. for 1 hour followed by chromatography as above.

reactant | 4(3H)-pyrimidone | N1=CNC(C=C1)=O | C4H4N2O
reactant | 3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-pyrano[3,2-c]pyridine | CC1(C2C(C=3C=NC=CC3O1)O2)C | C10H11NO2
product | Trans-3,4-Dihydro-2,2-dimethyl-4-(4(1H)-pyrimidinon-1-yl)-2H-pyrano[3,2-c]pyridine-3-ol | CC1([C@H]([C@@H](C=2C=NC=CC2O1)N1C=NC(C=C1)=O)O)C | C14H15N3O3
